US05965738
Synthesis of 5-ethyl-2-trifluoroacetylimino-3-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazoline
To a solution of 5-phenyl-1-triphenylmethyl-1H-tetrazole (2.3 g) in tetrahydrofuran (20 ml) was added dropwise n-butyl lithium (1.6M hexane solution, 4.0 ml) keeping the temperature below -20° C., followed by stirring at -5° C. for one hour. Zinc chloride (1.0M diethyl ether solution, 7.0 ml) was added dropwise keeping the temperature below -30° C., followed by stirring at room temperature for two hours. To the reaction mixture, 3-(4-iodobenzyl)-5-ethyl-2-trifluoroacetylimino-1,3,4-thiadiazoline (1.4 g) and tetrakis(triphenylphosphine)-palladium (100 mg) were added, followed by heating under reflux overnight. After ethyl acetate (50 ml) was added to the reaction mixture, the resulting mixture was washed with 10% aqueous citric acid solution and dried over anhydrous magnesium sulfate, followed by removal through distillation. The residue so obtained was separated by column chromatography on silica gel, whereby 830 mg of the title compound was obtained.

reactant | 5-phenyl-1-triphenylmethyl-1H-tetrazole | 2.3 g | C1(=CC=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H20N4
reactant | n-butyl lithium | 1.6M, 4.0 ml | C(CCC)[Li]
reactant | 3-(4-iodobenzyl)-5-ethyl-2-trifluoroacetylimino-1,3,4-thiadiazoline | 1.4 g | IC1=CC=C(CN2C(SC(=N2)CC)=NC(C(F)(F)F)=O)C=C1 | C13H11F3IN3OS
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | Zinc chloride | 1.0M, 7.0 ml | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)-palladium | 100 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-ethyl-2-trifluoroacetylimino-3-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazoline | 830 mg | C(C)C1=NN(C(S1)=NC(C(F)(F)F)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H30F3N7OS
